US08431538B2
4-Carbazol-9-ylmethylbenzoic acid methyl ester (19)
Carbazole (1.0 g, 6.0 mmol) and sodium hydride (60 wt. % in mineral oil, 0.14 g, 6.0 mmol) were placed under argon and dissolved in 5 mL of DMF. The mixture was stirred at room temperature for 30 min, followed by addition of 4-bromomethylbenzoic acid methyl ester (1.4 g, 6.0 mmol) and 5 mg of potassium iodide. The reaction was heated to 80° C. for 2 h upon which a precipitate formed and the reaction turned from dark brown to dark orange. The reaction was then quenched with water (30 mL) and ethyl acetate (30 mL). The organic layer was isolated and the aqueous layer extracted with ethyl acetate (2×10 mL). The combined organic layers were washed with water (2×20 mL), brine (15 mL), dried (Na2SO4) and concentrated in vacuo. Purification by column chromatography (0-80% gradient of ethyl acetate in hexane) afforded the title compound (0.95 g, 50%) as a light yellow solid. 1H NMR (400 MHz, DMSO): δ 8.19 (d, 2H, J=7.7 Hz), 7.51 (d, 2H, J=8.3 Hz), 7.41 (m, 4H), 7.23 (m, 4H), 5.74 (s, 2H), 3.79 (s, 3H). 13C NMR (100 MHz, DMSO): δ 166.4, 143.8, 129.9, 127.3, 126.4, 125.9, 120.8, 119.6, 118.9, 111.4, 109.9, 52.5, 45.8. ESI-HRMS (m/z): [M+H]+ calcd. for C21H17NO2, 316.1323. found, 316.1314.

reactant | Carbazole | 6.0 mmol, 1.0 g | C1=CC=CC=2C3=CC=CC=C3NC12 | C12H9N
reactant | sodium hydride | 6.0 mmol, 0.14 g | [H-].[Na+]
reactant | 4-bromomethylbenzoic acid methyl ester | 6.0 mmol, 1.4 g | COC(C1=CC=C(C=C1)CBr)=O | C9H9BrO2
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
catalyst | potassium iodide | 5 mg | [I-].[K+]
product | 4-Carbazol-9-ylmethylbenzoic acid methyl ester | 0.95 g, 50% | COC(C1=CC=C(C=C1)CN1C2=CC=CC=C2C=2C=CC=CC12)=O | C21H17NO2
